US04092311
A 22.7 g. portion of 5-methyl-6-(m-nitrophenyl)-3(2H)-pyridazinone in 230 ml. of phosphorus oxychloride is heated on a steam bath for 3 hours. The reaction mixture is poured portionwise into crushed ice with stirring. The resulting solid is collected by filtration, washed with water and then dried yielding 5-methyl-6-(m-nitrophenyl)-3-chloropyridazine, m.p. 169°-171° C.

reactant | 5-methyl-6-(m-nitrophenyl)-3(2H)-pyridazinone | CC1=CC(NN=C1C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H9N3O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-methyl-6-(m-nitrophenyl)-3-chloropyridazine | CC=1C=C(N=NC1C1=CC(=CC=C1)[N+](=O)[O-])Cl | C11H8ClN3O2
